* Enhancement-320: .param fast-sweep -- top-level param feeds a device value
.param rval=1k
V1 in 0 1
R1 in out {rval}
R2 out 0 1k
.control
sweep rval lin 9 100 900 -analysis op -output out -output i(v1)
wrdata _divider_out.dat out i(v1)
.endc
.end
