* Enhancement-321: subckt locally shadows the swept param -> reset fallback
.param rval=1k
.subckt res a b
.param rval=500
R1 a b {rval}
.ends
V1 in 0 1
X1 in out res
R2 out 0 1k
.control
sweep rval lin 9 100 900 -analysis op -output out
wrdata _divider_shadow_out.dat out
.endc
.end
